US05175274
9-(2-Deoxy-2-fluoro-β-D-arabinofuranosyl)guanine
2,6-Diamino-9-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-9H-purine (0.1 g, 0.35 mmoles) prepared as in Example 1, was dissolved in 10 ml of water. Calf intestine adenosine deaminase (10 I.U., Boehringer Mannheim) was added and the solution incubated at 37° C. for one day. The solvent was removed under vacuum. The residue was dissolved in acetonitrile/water (85/15) and chromatographed on silica gel with acetonitrile/water (85/15) as the solvent. Product containing fractions were combined and the solvent removed under vacuum. The residue was dissolved in water and lyophilization yielded 0.14 g of the title compound that analysed as a 1.1 hydrate.

reactant | 2,6-Diamino-9-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-9H-purine | 0.35 mmoles, 0.1 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H]([C@H](O)[C@H](O1)CO)F)N | C10H13FN6O3
reactant | adenosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
solvent | water | 10 ml | O | H2O
product | 9-(2-Deoxy-2-fluoro-β-D-arabinofuranosyl)guanine | 0.14 g | F[C@@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=2N=C(NC(C2N=C1)=O)N | C10H12FN5O4
